US09085578B2
A) ethyl 2-amino-1,3-oxazole-4-carboxylate
A mixture of ethyl bromopyruvate (5.00 g), urea (2.31 g) and ethanol (51 mL) was refluxed overnight. The reaction mixture was cooled to room temperature, and the solvent was evaporated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (2.87 g).

reactant | ethyl bromopyruvate | 5.00 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | urea | 2.31 g | NC(=O)N | CH4N2O
solvent | ethanol | 51 mL | C(C)O | C2H6O
product | ethyl 2-amino-1,3-oxazole-4-carboxylate | 2.87 g | NC=1OC=C(N1)C(=O)OCC | C6H8N2O3
